US07125880B1
(1-Ethyl-propyl)-[5-methyl-3-(2,4,6-trimethyl-phenyl)-3H-imidazo[4,5-b]pyridin-7-yl]-amine
A mixture of N4-(1-ethyl-propyl)-6-methyl-N2-(2,4,6-trimethyl-phenyl)-pyridine-2,3,4-triamine (250 mg, 0.77 mmol), trimethyl orthoformate (0.081 g, 0.766 mmol), p-toluenesulfonic acid monohydrate (0.01 g) in benzene was heated at reflux using Dean-Stark apparatus for 24 hours. Benzene was removed and toluene was added and an excess of trimethyl orthoformate (0.084 ml) was added to the reaction mixture. The mixture was heated at reflux overnight. The mixture was quenched with water, sat. NaHCO3, extracted with ethyl acetate. The organic layer was separated, dried (MgSO4) and concentrated to dryness. After purification, the title compound was isolated as a white crystal, mp 78–80° C.

reactant | N4-(1-ethyl-propyl)-6-methyl-N2-(2,4,6-trimethyl-phenyl)-pyridine-2,3,4-triamine | 0.77 mmol, 250 mg | C(C)C(CC)NC1=C(C(=NC(=C1)C)NC1=C(C=C(C=C1C)C)C)N | C20H30N4
reactant | trimethyl orthoformate | 0.766 mmol, 0.081 g | C(OC)(OC)OC | C4H10O3
reactant | p-toluenesulfonic acid monohydrate | 0.01 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (1-Ethyl-propyl)-[5-methyl-3-(2,4,6-trimethyl-phenyl)-3H-imidazo[4,5-b]pyridin-7-yl]-amine | C(C)C(CC)NC1=C2C(=NC(=C1)C)N(C=N2)C2=C(C=C(C=C2C)C)C | C21H28N4
